US07585871B2
Synthesis of 3-[(3-fluoro-6-methylphenanthridin-5(6H)-yl)carbonyl]phenol
1-(-2′,4′-difluoro-biphenyl-2-yl)-ethylamine—The title compound was prepared from 1-(2′,4′-difluoro-1,1′-biphenyl-2-yl)ethanone (3.67 g, 15.8 mmol), anhydrous methanol (200 mL), ammonium acetate (12.2 g, 158 mmol), and sodium cyanoborohydride (1.99 g, 31.6 mmol) according to the procedure and in the same manner as described in Example 24, step b resulting in the isolation of a clear oil that was used without further purification. MS [(ES+), m/z]: 217 [M-16]+, benzylic cation as a result of the loss of NH2.

reactant | 1-(-2′,4′-difluoro-biphenyl-2-yl)-ethylamine | FC1=C(C=CC(=C1)F)C1=C(C=CC=C1)C(C)N | C14H13F2N
reactant | 1-(2′,4′-difluoro-1,1′-biphenyl-2-yl)ethanone | 15.8 mmol, 3.67 g | FC1=C(C=CC(=C1)F)C1=C(C=CC=C1)C(C)=O | C14H10F2O
reactant | ammonium acetate | 158 mmol, 12.2 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 31.6 mmol, 1.99 g | C(#N)[BH3-].[Na+]
solvent | methanol | 200 mL | CO | CH4O
product | 3-[(3-fluoro-6-methylphenanthridin-5(6H)-yl)carbonyl]phenol | FC=1C=CC=2C3=CC=CC=C3C(N(C2C1)C(=O)C=1C=C(C=CC1)O)C | C21H16FNO2
